US07935721B2
Synthesis of (2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetic acid
A mixture of ethyl (2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate (0.23 g, 0.63 mmol) and LiOH (0.10 g, 4.20 mmol) in MeOH/H2O (1/1, 20.0 mL) was stirred at ambient temperature for 20 hours. The mixture was acidified with 0.1 M HCl until pH 2-3. The solid was filtered off and dried to give the title compound (0.15 g, 70%): MS (ES−) m/z 336.3 (M−1).

reactant | ethyl (2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate | 0.63 mmol, 0.23 g | O=C1N(C2=CC=CC=C2C12C1=C(OC2)C=C2OCCC2=C1)CC(=O)OCC | C21H19NO5
reactant | LiOH | 4.20 mmol, 0.10 g | [Li+].[OH-]
reactant | HCl | 0.1 M | Cl | ClH
solvent | ethyl acetate water | 20.0 mL | C(C)(=O)OCC.O
product | (2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetic acid | 0.15 g, 70% | O=C1N(C2=CC=CC=C2C12C1=C(OC2)C=C2OCCC2=C1)CC(=O)O | C19H15NO5
